US08735384B2
To a solution of 2-bromo-5-fluoro-3-methylbenzoic acid (140 mg, 0.60 mmol), pyrrolidine (99 μL, 1.20 mmol) and Hunig's base (210 μL, 1.20 mmol) in DMF (2 mL) at RT was added HATU (457 mg, 1.20 mmol) and the reaction stirred at this temp overnight. The reaction was quenched with water and the aqueous layer was extracted with EtOAc. The organic layer was then washed with water and brine (3× ea.), dried over Na2SO4 and concentrated in vacuo. The crude material was purified by column chromatography (0-60% Hex/EtOAC) to yield (2-bromo-5-fluoro-3-methylphenyl)(pyrrolidin-1-yl)methanone as a clear oil.

reactant | 2-bromo-5-fluoro-3-methylbenzoic acid | 0.60 mmol, 140 mg | BrC1=C(C(=O)O)C=C(C=C1C)F | C8H6BrFO2
reactant | pyrrolidine | 1.20 mmol, 99 μL | N1CCCC1 | C4H9N
reactant | Hunig's base | 1.20 mmol, 210 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.20 mmol, 457 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (2-bromo-5-fluoro-3-methylphenyl)(pyrrolidin-1-yl)methanone | BrC1=C(C=C(C=C1C)F)C(=O)N1CCCC1 | C12H13BrFNO
